US07981918B2
(R)-3-(6-Chloro-2,3-difluoro-4-trifluoromethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Combine a solution of (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(6-chloro-2,3-difluoro-4-trifluoromethyl-benzyl)-4-oxo-butyraldehyde (Preparation 46) (0.30 g, 0.6 mmol) and 4,5,6,7-Tetrahydro-2H-indazol-5-ylamine (Preparation 40) (88 mg, 0.64 mmol) in CH2Cl2 (15 mL) and MeOH (1 mL) and treat the solution with HOAc (0.03 mL, 0.6 mmol). Stir the reaction for 30 min at room temperature, treat the reaction with sodium triacetoxyborohydride (0.39 g, 1.8 mmol), and stir overnight at room temperature. Quench the reaction with water and extract with EtOAc. Wash the organic with brine, dry over MgSO4, filter, and remove the solvent. Purify the crude by SCX resin exchange column using 2M ammonia in MeOH to elute the pure product. Remove the solvent to afford 0.12 g (46%) of the title compound. MS (m/e): 434 (M+1).

reactant | (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(6-chloro-2,3-difluoro-4-trifluoromethyl-benzyl)-4-oxo-butyraldehyde | 0.6 mmol, 0.30 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C(=C(C=C1Cl)C(F)(F)F)F)F)=O | C22H17ClF5NO4
reactant | 4,5,6,7-Tetrahydro-2H-indazol-5-ylamine | 0.64 mmol, 88 mg | N=1NC=C2CC(CCC12)N | C7H11N3
reactant | HOAc | 0.6 mmol, 0.03 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.8 mmol, 0.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-3-(6-Chloro-2,3-difluoro-4-trifluoromethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | 0.12 g, 46% | ClC1=CC(=C(C(=C1C[C@H]1C(N(CC1)C1CC2=CNN=C2CC1)=O)F)F)C(F)(F)F | C19H17ClF5N3O
